US09238656B2
(1S,2S,3R,4R)-3-[6-Chloro-2-(2-methyl-4-morpholin-4-yl-phenyl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (Compound CXXI)
In a similar fashion to Compound LXXXVII, (1S,2S,3R,4R)-3-(2,3-Diamino-5-chloro-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (50.00 mg, 0.1702 mmol), 2-Methyl-4-morpholin-4-yl-benzaldehyde (38.4 mg, 0.187 mmol), and Ammonium acetate (26.2 mg, 0.340 mmol) were reacted to produce 28.37 mg (35%) of the title compound. (300 MHz, DMSO-d6) 12.83 (s, 1H), 7.91 (s, 1H), 7.72 (m, 2H), 7.21 (s, 1H), 7.00 (d, J=9 Hz, 1H), 6.90 (s, 2H), 6.33 (s, 1H), 6.26 (s, 1H), 5.18 (t, J=17 Hz, 9 Hz, 1H), 3.75 (s, 4H), 3.22 (s, 4H), 2.86 (s, 1H), 2.75 (s, 1H), 2.59 (d, J=8 Hz, 1H), 2.25 (d, J=8 Hz, 1H), 1.39 (d, J=8 Hz). MS=479 (M+H), HPLC: 2.42 min. (G Method)

reactant | (1S,2S,3R,4R)-3-(2,3-Diamino-5-chloro-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 0.1702 mmol, 50.00 mg | NC1=NC=C(C(=C1N)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N)Cl | C13H16ClN5O
reactant | 2-Methyl-4-morpholin-4-yl-benzaldehyde | 0.187 mmol, 38.4 mg | CC1=C(C=O)C=CC(=C1)N1CCOCC1 | C12H15NO2
reactant | Ammonium acetate | 0.340 mmol, 26.2 mg | C(C)(=O)[O-].[NH4+]
product | (1S,2S,3R,4R)-3-[6-Chloro-2-(2-methyl-4-morpholin-4-yl-phenyl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 28.37 mg, 35% | ClC=1C(=C2C(=NC1)NC(=N2)C2=C(C=C(C=C2)N2CCOCC2)C)N[C@H]2[C@H]([C@@H]1C=C[C@H]2C1)C(=O)N | C25H27ClN6O2
